Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
shellfish derived
 
Attending: ___
 
Chief Complaint:
Headache, tongue deviation, foot
numbness

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a ___ man with
a history of hypertension who presents to the ED as a referral
from his neurologist, Dr. ___, due to ongoing headaches, as
well as tongue deviation. 

He reports that before early ___ of this year he was doing
fine with no problems.  He had never had any difficulty with
headaches.  Around ___, he developed the gradual onset of 
a
right temporal headache.  This was dull and mild.  It was
essentially constant at first, but would get worse at the end of
the day.  It never woke him up from sleep.  There was no
thunderclap headache or positional nature to his headache. 
Headache was particularly bad, he would have some photophobia. 
He tried taking Tylenol, NSAIDs, and Excedrin but these did not
help significantly.

On ___, he was working outside he tried to clear his
throat and spit, but noticed he was having difficulty doing so. 
He denies overt choking or dysphagia.  When he looked in the
mirror he noticed that his tongue was deviating to the right. 
This had never been the case before.  He contacted his PCP, who
referred him to the emergency room.  He was seen at ___, where a CT and MRI were performed.  These were read as
normal.  He was started on a statin and discharged home.

However, 2 days later he noticed that his tongue felt very
swollen in his mouth.  He thought that his speech was somewhat
slurred, "like he was talking with his mouth full of marbles". 
It is unclear exactly how long this lasted.  He was again seen 
in
the emergency room and based on a history of prior Lyme disease,
was prescribed doxycycline.  He reports that he had a "tick
panel" performed, and that this was negative.

Around ___, his headache resolved.  This relief lasted 
for
at least for 5 days.

On ___, he noticed that the left sole of his foot started
feeling numb, which she describes as a tingling sensation.  This
did not spread or progress in any way, but it has been
essentially constant until now.

On ___, his headache returned, this seemed to be somewhat
more severe.  He again tried NSAIDs and Excedrin, but these were
no help.

He was seen by a neurologist, Dr. ___ in ___, who
recommended a repeat MRI head as well as an MRI neck.  This was
obtained and he followed up about a week later.  They were 
unsure
how to explain his symptoms and so he was referred to Dr.
___ referred him to the emergency department today.

Of note, he denies any weight loss, but the last time he saw his
brother, the brother remarks that he seemed very skinny.  The
patient does not measure his weight.

On my interview, he confirms the history as above.  He does not
have any headache currently. He denies lightheadedness or
confusion. Denies difficulty with producing or comprehending
speech. Denies loss of vision, blurred vision, diplopia, 
vertigo,
hearing difficulty, dysarthria, or dysphagia. Denies focal 
muscle
weakness. Denies loss of sensation. Denies bowel or bladder
incontinence or retention. Denies difficulty with gait. Endorses
chronic tinnitus but denies pulsatile tinnitus.

On general review of systems, the pt denies recent fever or
chills. Denies cough, shortness of breath.  Denies chest pain or
tightness, palpitations.  Denies nausea, vomiting, diarrhea,
constipation or abdominal pain.  No recent change in bowel or
bladder habits.  No dysuria.  Denies arthralgias or myalgias.
Denies rash.

 
Past Medical History:
Hypertension
Inguinal hernia
Carpal tunnel syndrome, right         
Prior Lyme disease/Bell's palsy (left), ___

 
Social History:
___
Family History:
Father died at age ___ of Alzheimer's dementia.  Mother had
bladder cancer.  
 
Physical Exam:
Admission exam:
Vitals: T: 98.6 p: 86 R: 20 BP: 140/87 SaO2: 100% room air
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted. The uvula and soft 
palate
appear somewhat inflamed/boggy. 
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. There was no
evidence of apraxia or neglect.
-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. Fundoscopic
exam revealed no papilledema, exudates, or hemorrhages.
V: Facial sensation intact to light touch and pin.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate/uvula deviates to right on elevation.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue deviates to right on protrusion but is full strength
bilaterally with tongue in cheek testing.
-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___ 
L  5    ___   ___  5   5    5  5     5     5  
R  5    ___   ___  5   5    5  5     5     5  
Ankle inversion/eversion are full strength bilaterally.
-Sensory: Pinprick and temperature sensation are decreased (80%
normal) in an area along the medial aspect of the sole of the
left foot. No extinction to DSS.
-DTRs:
  Bi Tri ___ Pat Ach
L  3  2    2    3*  2
R  3  2    2    3   2
*slightly more brisk on left
Plantar response was flexor bilaterally. Prepatellar and
pectoralis jerk present bilaterally. 
-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.
-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. Romberg
absent.

========================
Discharge exam:
Exam:
General: No apparent distress. Sitting up in bed and cooperative
with exam. 
HEENT: Normocephalic, atraumatic. Neck supple.
Pulmonary: Normal work of breathing.
Cardiac: warm, well-perfused.
Extremities: No ___ edema.
Skin: clubbing, cyanosis or rash. 

Neurologic:

Mental status: A&O x3. Speech with dysarthria. Repetition of 
word
phrase is intact. Able to name high and low frequency objects. 

Cranial Nerves:
II, III, IV, VI: PERRL 3 mm to 2 mm. EOMI bilaterally w/o
nystagmus. Visual fields full.   
V: Facial sensation intact to light touch.  
VII: symmetric with activation.   
VIII: Hearing intact to finger-rub bilaterally.
IX, X: uvula deviated to the R at rest and deviation increases
with activation. 
XI: normal trapezii strength bilaterally.
XII: Tongue protrudes with R deviation. Able to move tongue
laterally without difficulty. Strength with tongue in check full
bilaterally.  

Motor: Normal bulk and tone throughout. No pronation or drift in
the upper extremities. 

     Delt Bic Tri WrE IP Quad Ham  TA ___
 L    ___   ___    5    5     5         
 R    ___   ___    5    5     5        

Sensory: intact to light touch and pinprick in the upper and
lower
extremities except for mild decrease sensation in the medial
aspect of the sole of the L foot extending to the great toe. No
extinction to double simultaneous stimulation. 

DTR's- brisk 2+ throughout, with pec reflexes bilaterally. 

Coordination: Normal finger-nose-finger. No intention tremor
noted. 

Gait: No ataxia noted, able to ambulate to and from bed without
difficulty. 

 
Pertinent Results:
BLE LENIS:
IMPRESSION:  
  
No evidence of deep venous thrombosis in the right or left lower 
extremity 
veins. 

==========================
TTE:
CONCLUSION: The left atrial volume index is normal. There are 
delayed saline microbubbles in the
left heart most c/w no evidence of an atrial septal defect or 
patent foramen ovale by 2D/color Doppler or
agitated saline at rest and with maneuvers. There is normal left 
ventricular wall thickness with a normal
cavity size. There is normal regional and global left 
ventricular systolic function. Overall left ventricular
systolic function is low normal. Quantitative biplane left 
ventricular ejection fraction is 53 %. There
is no resting left ventricular outflow tract gradient. Normal 
right ventricular cavity size with normal free
wall motion. The aortic sinus diameter is normal for gender with 
normal ascending aorta diameter for
gender. The aortic arch diameter is normal with a normal 
descending aorta diameter. The aortic valve
leaflets (3) appear structurally normal. There is no aortic 
valve stenosis. There is no aortic regurgitation.
The mitral valve leaflets appear structurally normal with no 
mitral valve prolapse. There is trivial mitral
regurgitation. The pulmonic valve leaflets are normal. The 
tricuspid valve leaflets appear structurally
normal. There is physiologic tricuspid regurgitation. The 
estimated pulmonary artery systolic pressure is
normal. There is no pericardial effusion.
==================================

CT Torso w/wo:
IMPRESSION: 
  
  
1. No evidence of abdominopelvic malignancy.
IMPRESSION:  
  
No evidence of intrathoracic malignancy 

====================================
CTA head and neck:
IMPRESSION: 
  
  
1. No evidence of recent large territory infarction or 
hemorrhage. 
2. Redemonstration of chronic left occipital infarct and chronic 
right 
cerebellar hemisphere infarct, unchanged compared to prior MR. 
3. Dominant left vertebral artery with atrophic right vertebral 
artery. 
4. No evidence of dissection, occlusion, flow limiting stenosis, 
or aneurysm 
formation within the great vessels in the head or neck. The 
vessels of the 
circle of ___ and their principal proximal intracranial 
branches are 
patent. The dural venous sinuses appear patent. 

Labs:

 
  

___ 07:40AM BLOOD WBC-6.1 RBC-4.73 Hgb-14.2 Hct-44.2 MCV-93 
MCH-30.0 MCHC-32.1 RDW-12.0 RDWSD-41.5 Plt ___
___ 07:40AM BLOOD Plt ___
___ 07:40AM BLOOD Glucose-103* UreaN-13 Creat-0.9 Na-141 
K-4.4 Cl-103 HCO3-26 AnGap-12
___ 01:05PM BLOOD ALT-19 AST-17 AlkPhos-59 TotBili-0.3
___ 07:40AM BLOOD TotProt-6.8 Calcium-9.5 Phos-3.5 Mg-1.9
___ 05:40AM BLOOD VitB12-216*
___ 05:40AM BLOOD %HbA1c-5.5 eAG-111
___ 07:40AM BLOOD Homocys-PND
___ 05:40AM BLOOD TSH-3.8
___ 07:40AM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG
___ 07:40AM BLOOD RheuFac-<10 ___
___ 01:05PM BLOOD CRP-0.5
___ 07:40AM BLOOD PEP-PND IFE-PND
___ 07:40AM BLOOD C3-97 C4-19
___ 01:05PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 07:40AM BLOOD HCV VL-PND

___ 07:40AM BLOOD AT-PND ProtCFn-PND ProtSFn-PND
___ 07:40AM BLOOD ANCA-PND
___ 07:40AM BLOOD RheuFac-<10 ___
 
Brief Hospital Course:
___ man with hypertension, old posterior circulation 
strokes of unknown etiology, presented for evaluation of recent 
right parietal/temporal headaches, subacute evolution of right 
tongue weakness/deviation, and mild sensory changes on the 
medial aspect of the left foot. 
Work up including previous MRI brain and neck did not show any 
acute stroke, or evidence of inflammation/demyelination or 
malignancy to explain his symptoms. At ___ he underwent a 
lumbar puncture, which was bland, making an 
inflammatory/infectious etiologies less likely. Etiology of his 
symptoms is still somewhat unclear and it is difficult to tie 
all these symptoms into a single distribution. Although the 
evolution of symptoms is somewhat unusual for stroke, but given 
the bland lumbar puncture and given the fact that he has had 2 
earlier strokes and has probably an increased risk of stroke in 
setting of pulmonary arteriovenous malformation, raises the 
possibility that this was a small MRI negative medullary stroke.
Hypercoagulable workup has been sent as was vasculitis workup. 
LENIS BLE were negative. CT TORSO was negative for malignancy. 
TTE showed pAVM as mentioned above. LDL was 90 and he was 
started on Atorvastatin 40 qhs, in addition to his ASA 81mg 
daily. He does have hypertension as well which is being treated.
Pulmonary AVMs usually occur in the context of hereditary 
hemorrhagic telangiectasia. However, he does not have any 
telangiectasia
obvious clinically. He has had spontaneous nosebleeds, though. 
No family history of pregnancy losses or deep venous thrombosis.

He was discharged home with zio patch and follow up with Dr. 
___ to further discuss intervention of pAVM and follow 
up tests still pending.

============================
Transitional issues:
-follow up with ___ regarding intervention for pulmonary 
AVM
-follow rest of hypercoaguable work up and vasculitis labs. 
Please also send 
 Factor 5 Leiden and ___ gene mutation as an outpatient
-follow up result of ziopatch
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. benazepril 20 mg oral daily 
2. amLODIPine 5 mg PO DAILY 
3. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*3 
2.  Cyanocobalamin 250 mcg PO DAILY 
RX *cyanocobalamin (vitamin B-12) [Vitamin B-12] 250 mcg 1 
tablet(s) by mouth daily Disp #*30 Tablet Refills:*0 
3.  amLODIPine 5 mg PO DAILY  
4.  Aspirin 81 mg PO DAILY  
5.  benazepril 20 mg oral DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
MRI negative brain stem stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___ were admitted to ___ for evaluation of symptoms of tongue 
weakness/deviation, headache and foot tingeling. 
Your previous MRI's showed old strokes but nothing acute. Your 
lumbar puncture was normal. At this time the etiology of ___ 
symptoms is thought to be due MRI negative brainstem stroke. 
Your echo shoed a pulmonary AVM which is associated with 
increased stroke risk secondary to paradoxical emboli. ___ 
underwent ultrasound of your legs which did not show any clots. 
Your CT torsoe did not show any cancer. Hypercoaguable labs and 
vasculitis labs are still pending at this time. We started ___ 
on statin given elevated LDL. ___ should continue the rest of 
your home medications. 
We will discharge ___ with holter monitor to assess for 
underlying abnormal heart rhythm called atrial fibrillation. ___ 
should follow up with Dr. ___ discussion of treatment of 
pulmonary AVM.

It was a pleasure taking care of ___. 

Your ___ care team
 
Followup Instructions:
___